US05082932
84.8 g (0.337 mol) of crude 1-nitroso-6-bromo-β-naphthol were stirred into a solution of 97.5 g (0.939 mol) of sodium hydrogen sulfite and 4.0 g (0.1 mol) of sodium hydroxide solution in 376 ml of water at room temperature. The suspension was made up to 1350 ml with water and stirred for 24 hours at room temperature. Then 6.8 g (8% of the amount taken) of the solution residue were separated off by filtration. Then acidification was carried out with 119.4 g (1.17 mol) of 96%-strength sulfuric acid at no more than 30° C. and the product was crystallized out for 48 hours at room temperature. After filtration by suction and drying, 92.0 g (86%) of 1-amino-2-hydroxy-6-bromo-4-naphthalene sulfonic acid were obtained.

reactant | 1-nitroso-6-bromo-β-naphthol | 0.337 mol, 84.8 g | N(=O)C1=C(C=CC2=CC(=CC=C12)Br)O | C10H6BrNO2
reactant | sodium hydrogen sulfite | 0.939 mol, 97.5 g | S(=O)(O)[O-].[Na+]
reactant | sodium hydroxide | 0.1 mol, 4.0 g | [OH-].[Na+]
solvent | water | 376 ml | O | H2O
product | 1-amino-2-hydroxy-6-bromo-4-naphthalene sulfonic acid | 92.0 g, 86% | NC1=C(C=C(C2=CC(=CC=C12)Br)S(=O)(=O)O)O | C10H8BrNO4S
